US06930120B2
2-(3-tert-Butyl-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(3-tert-butyl-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester by the procedure of Example 24. 1H NMR (400 MHz, CDCl3) δ 7.60 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.37 (dd, 1H, J=5.09 Hz, 1.17 Hz), 7.19-7.16 (m, 3H), 7.08-7.06 (m, 2H), 6.89 (t, 1H, J=2.35 Hz), 6.82 (d, 2H, J=8.60 Hz), 6.71 (dd, 1H, J=8.60 Hz, 2.74 Hz), 4.19 (t, 2H, J=6.26 Hz), 3.25 (d, 1H, J=14.08 Hz), 3.15 (d, 1H, J=14.08 Hz), 2.96 (t, 2H, J=6.26 Hz), 2.35 (s, 3H), 1.43 (s, 3H), 1.26 (s, 9H). HRMS (ES+) m/z exact mass calcd for C30H34NO5S 520.2157, found 520.2182.

reactant | 2-(3-tert-butyl-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)C(C)(C)C)=O | C22H28O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(3-tert-Butyl-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | C(C)(C)(C)C=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C)C=CC1 | C30H33NO5S
